US06743785B2
7-[4-(5,5-Dimethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-3,4-dihydro-1H-[1,4]diazepino[6,7,1-hi]indole-2-carboxylic acid tert-butyl ester
Beginning with 7-Carbamoylmethyl-3,4-dihydro-1H-[1,4]diazepino[6,7,1-hi]indole-2-carboxylic acid tert-butyl ester and (5,5-Dimethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-oxo-acetic acid methyl ester, the title compound was prepared essentially as described in Example 1.

reactant | 7-Carbamoylmethyl-3,4-dihydro-1H-[1,4]diazepino[6,7,1-hi]indole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1CN2C=CC3=C(C=CC(=C23)CN1)CC(N)=O | C18H23N3O3
reactant | (5,5-Dimethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-oxo-acetic acid methyl ester | COC(C(=O)C1=CN2CC(CC3=CC=CC1=C23)(C)C)=O | C16H17NO3
product | 7-[4-(5,5-Dimethyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-3,4-dihydro-1H-[1,4]diazepino[6,7,1-hi]indole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1CN2C=CC3=C(C=CC(=C23)CN1)C=1C(NC(C1C1=CN2CC(CC3=CC=CC1=C23)(C)C)=O)=O | C33H34N4O4
